US08563575B2
139b) 3-[2-(5-methylpyridin-2-yl)-2H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
Under argon atmosphere, a mixture of 1-(5-methylpyridin-2-yl)-2H-indazol-5-amine (60 mg), tert-butyl 2-chloropyridin-3-ylcarbamate (67.3 mg), Pd2(dba)3 (24.5 mg), Xantphos (31.0 mg) and sodium tert-butoxide (28.3 mg) in 2-propanol (2 ml) and toluene (0.5 mL) was stirred at 90° C. for 24 h, treated with water and extracted with EtOAc. The organic layer was separated, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with AcOEt/Hexane to give the title compound as white crystals (31 mg).

reactant | 1-(5-methylpyridin-2-yl)-2H-indazol-5-amine | 60 mg | CC=1C=CC(=NC1)N1NCC2=CC(=CC=C12)N | C13H14N4
reactant | tert-butyl 2-chloropyridin-3-ylcarbamate | 67.3 mg | ClC1=NC=CC=C1NC(OC(C)(C)C)=O | C10H13ClN2O2
reactant | Xantphos | 31.0 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 28.3 mg | CC(C)([O-])C.[Na+]
solvent | 2-propanol | 2 ml | CC(C)O | C3H8O
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 24.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | 3-[2-(5-methylpyridin-2-yl)-2H-indazol-5-yl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 31 mg | CC=1C=CC(=NC1)N1N=C2C=CC(=CC2=C1)N1C(NC=2C1=NC=CC2)=O | C19H14N6O
